US05084084
Synthesis of 3-(4-chloro-2-fluoro-5-(5-methyl -1,3,4-oxadiazol-2-yl)phenyl)-6-trifluoromethyl -2,4(1H,3H)-pyrimidinedione (compound C-2)
To a suspension of 1.04 g of sodium hydride (oil, purity: 55%) in 75 ml of dimethylformamide, a solution of 4.3 g of ethyl 3-amino-4,4,4-trifluorocrotonate in 58 ml of toluene was added dropwise of 0° C. over a period of 15 minutes. Thereafter, the solution was stirred at 0° C. for 15 minutes and then cooled to -30° C., followed by dropwise addition of a solution of 5.7 g of 4-chloro -2-fluoro-5-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl isocyanate in 60 ml of toluene. The resulting mixed solution was stirred at room temperature for 3 hours.

reactant | sodium hydride | 1.04 g | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 4.3 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 4-chloro -2-fluoro-5-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl isocyanate | 5.7 g | ClC1=CC(=C(C=C1C=1OC(=NN1)C)N=C=O)F | C10H5ClFN3O2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | toluene | 58 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chloro-2-fluoro-5-(5-methyl -1,3,4-oxadiazol-2-yl)phenyl)-6-trifluoromethyl -2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1C=1OC(=NN1)C)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C14H7ClF4N4O3
